US08859541B2
N-[5-(3,5-dimethyl-1,2-oxazol-4-yl)-6-(2-isoquinolin-6-ylethynyl)pyridin-2-yl]-2-(methylamino)propanamide
A mixture of tert-butyl-N-[1-[[5-(3,5-dimethyl-1,2-oxazol-4-yl)-6-(2-isoquinolin-6-yl-ethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate E2a (191 mg, 0.36 mmol) and DCM:TFA (9:1, 10 ml) is stirred at RT for 2 h. The mixture is diluted with DCM and extracted with a saturated aqueous solution of NaHCO3. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by RP HPLC. Yield: 101 mg (65%). HPLC-MS: M+H=426; tR=1.30 min (*Method—1).

reactant | tert-butyl-N-[1-[[5-(3,5-dimethyl-1,2-oxazol-4-yl)-6-(2-isoquinolin-6-yl-ethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)C=1C(=NOC1C)C)C#CC=1C=C2C=CN=CC2=CC1)C)=O | C30H31N5O4
reactant | DCM TFA | 10 ml | C(Cl)Cl.C(=O)(C(F)(F)F)O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[5-(3,5-dimethyl-1,2-oxazol-4-yl)-6-(2-isoquinolin-6-ylethynyl)pyridin-2-yl]-2-(methylamino)propanamide | CC1=NOC(=C1C=1C=CC(=NC1C#CC=1C=C2C=CN=CC2=CC1)NC(C(C)NC)=O)C | C25H23N5O2
